US04704459
To 6 ml of methylene chloride was added 335 mg of (N,N-dimethylformamide-dimethyl sulfate) complex compound, and 65 mg of sodium methoxide was added thereto at 0° C., after which the resulting mixture was subjected to reaction at 0° to 10° C. for 1 hour. Subsequently, 300 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate and 115 mg of acetic anhydride were added thereto. The resulting mixture was subjected to reaction at room temperature for 2 hours, and 0.31 ml of 2N hydrochloric acid and 3 ml of ethanol were added to the reaction mixture, after which the resulting mixture was subjected to reaction at room temperature for 1.5 hours. The reaction mixture was added to a mixture of 6 ml of methylene chloride and 6 ml of water, and the organic layer was separated, washed with 6 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of diisopropyl ether, after which crystals were collected by filtration to obtain 245 mg (yield 80.2%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-trimethylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate. The physical properties of this compound were identical with those of the compound obtained in Example 41.

reactant | N,N-dimethylformamide dimethyl sulfate | CN(C=O)C.S(=O)(=O)(OC)OC
reactant | sodium methoxide | 65 mg | C[O-].[Na+]
reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate | 300 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C25H23F3N2O6S
reactant | acetic anhydride | 115 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 2N, 0.31 ml | Cl | ClH
reactant | diisopropyl ether | 2 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 6 ml | O | H2O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-trimethylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate | 245 mg, yield 80.2% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F)=O)C(=O)OCC | C26H21F3N2O6S
